US07714099B2
2-(3,5-di-tert-butyl-2-methoxyphenyl)-4,7-dibromo-2H-benzotriazole
2,4-Di-tert-butyl-6-(4,7-dibromo-benzotriazol-2-yl)-phenol (Monomer T1) (1.0 g, 2.08 mmol) and potassium carbonate (0.431 g, 96% GC purity, 3.12 mmol) were mixed in anhydrous DMF (20 mL) in a round-bottomed 100-mL flask. The flask was capped with a rubber septum and purged with nitrogen for 0.5 h. The mixture was heated to 65° C. and iodomethane (0.591 g, 4.16 mmol) was added. The mixture was stirred at 60-65° C. for 1 h. The flask was cooled to room temperature. DCM (20 mL) and water (20 mL) were added and the organic phase was separated and the aqueous phase extracted with DCM (20 mL). All the organic phases were combined and washed with water (3×20 mL) and brine (20 mL). The solution was dried over magnesium sulfate and filtered. The filtrate was evaporated to dryness with a rotary evaporator. The product was crystallized from DCM/hexanes and filtered. Purity: 99% (GC). Yield: 34%.

reactant | 2,4-Di-tert-butyl-6-(4,7-dibromo-benzotriazol-2-yl)-phenol | 2.08 mmol, 1.0 g | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)N1N=C2C(=N1)C(=CC=C2Br)Br)O | C20H23Br2N3O
reactant | potassium carbonate | 3.12 mmol, 0.431 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 4.16 mmol, 0.591 g | IC | CH3I
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 2-(3,5-di-tert-butyl-2-methoxyphenyl)-4,7-dibromo-2H-benzotriazole | Yield: 34% | C(C)(C)(C)C=1C(=C(C=C(C1)C(C)(C)C)N1N=C2C(=N1)C(=CC=C2Br)Br)OC | C21H25Br2N3O
